US09126974B2
3-((3,3,3-trifluoropropyl)thio)propanoyl chloride
A dry 5 L round bottom flask equipped with magnetic stirrer, nitrogen inlet, reflux condenser, and thermometer, was charged with 3-((3,3,3-trifluoropropyl)thio)propanoic acid ((188 g, 883 mmol) in dichloromethane (3 L). Thionyl chloride (525 g, 321 mL, 4.42 mol) was then added dropwise over 50 minutes. The reaction mixture was heated to reflux (about 36° C.) for two hours, then cooled to room temperature. Concentration under vacuum on a rotary evaporator, followed by distillation (40 Torr, product collected from 123-127° C.) gave the title compound as a clear colorless liquid (177.3 g, 86%): 1H NMR (400 MHz, CDCl3) δ 3.20 (t, J=7.1 Hz, 2H), 2.86 (t, J=7.1 Hz, 2H), 2.78-2.67 (m, 2H), 2.48-2.31 (m, 2H); 19F NMR (376 MHz, CDCl3) δ −66.42, −66.43, −66.44, −66.44.

reactant | 3-((3,3,3-trifluoropropyl)thio)propanoic acid | FC(CCSCCC(=O)O)(F)F | C6H9F3O2S
reactant | Thionyl chloride | 4.42 mol, 321 mL, 525 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 3 L | ClCCl | CH2Cl2
product | 3-((3,3,3-trifluoropropyl)thio)propanoyl chloride | 177.3 g, 86% | FC(CCSCCC(=O)Cl)(F)F | C6H8ClF3OS
